### PR TITLE
feat(Mathlib/Topology/StoneCech): Add theorem disjoint_closure_of_disjoint_closed

### PR DESCRIPTION
**Pull request by mapehe**
Two disjoint closed subsets of a normal space X have disjoint closures in the Stone-Cech compactification of X.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/StoneCech.lean [hunk 1]
```diff
@@ -331,4 +332,45 @@ instance StoneCech.compactSpace : CompactSpace (StoneCech α) :=
   Quotient.compactSpace
 #align stone_cech.compact_space StoneCech.compactSpace
 
+theorem disjoint_closure_of_disjoint_closed [TopologicalSpace α] [NormalSpace α]
+    {s t : Set α} (hs : IsClosed s) (ht : IsClosed t) (hd: Disjoint s t) :
+    Disjoint (closure (stoneCechUnit '' s)) (closure (stoneCechUnit '' t)) := by
+  let ⟨⟨f, cf⟩, hfs, hft, hf⟩ := exists_continuous_zero_one_of_closed hs ht hd
+  let Z := ULift.{u} <| Set.Icc (0 : ℝ) 1
+  haveI : CompactSpace Z := Homeomorph.ulift.symm.compactSpace
```
Comment (alexjbest) [inline Mathlib/Topology/StoneCech.lean:340]:
```suggestion
  have : CompactSpace Z := Homeomorph.ulift.symm.compactSpace
```
it probably shouldn't be needed to use haveI here

File: Mathlib/Topology/StoneCech.lean [hunk 2]
```diff
@@ -331,4 +332,45 @@ instance StoneCech.compactSpace : CompactSpace (StoneCech α) :=
...
+  haveI : T2Space Z := Homeomorph.ulift.symm.t2Space
+  let g : α → Z := fun y' => ⟨f y', hf y'⟩
+  let hg : Continuous g := continuous_uLift_up.comp (cf.subtype_mk fun y' => hf y')
```
Comment (alexjbest) [inline Mathlib/Topology/StoneCech.lean:343]:
```suggestion
  have hg : Continuous g := continuous_uLift_up.comp (cf.subtype_mk fun y' => hf y')
```
this is a proposition so use `have` not `let`

File: Mathlib/Topology/StoneCech.lean [hunk 3]
```diff
@@ -331,4 +332,45 @@ instance StoneCech.compactSpace : CompactSpace (StoneCech α) :=
...
+  let uu := stoneCechExtend hg
+  have subs: ∀ (x : ℝ), (h : (x ∈ Set.Icc (0 : ℝ) 1)) →
```
Comment (alexjbest) [inline Mathlib/Topology/StoneCech.lean:345]:
```suggestion
  have subs : ∀ (x : ℝ) (h : x ∈ Set.Icc (0 : ℝ) 1),
```

File: Mathlib/Topology/StoneCech.lean [hunk 4]
```diff
@@ -331,4 +332,45 @@ instance StoneCech.compactSpace : CompactSpace (StoneCech α) :=
...
+      rw [closure_eq_iff_isClosed]
+      apply_rules [IsClosed.preimage, continuous_stoneCechExtend,
+      IsCompact.isClosed, isCompact_singleton, continuous_def.2]
+      simp only [preimage_id', imp_self, forall_const]
+    rw [←closed_image]
+    apply closure_mono
+    rw [←stoneCechExtend_extends hg, preimage_comp, image_subset_iff]
+  have closureSub: ∀ (x : ℝ), ∀ (u : Set α), (h0: (∀ (o : α), (o ∈ u)  → f o = x))
+      → (h : (x ∈ Set.Icc (0 : ℝ) 1)) → closure (stoneCechUnit '' u) ⊆ uu ⁻¹' {⟨x, h⟩} := by
+    simp only
```
Comment (alexjbest) [inline Mathlib/Topology/StoneCech.lean:358]:
```suggestion
```
I'd guess that this probably isn't needed

File: Mathlib/Topology/StoneCech.lean [hunk 5]
```diff
@@ -331,4 +332,45 @@ instance StoneCech.compactSpace : CompactSpace (StoneCech α) :=
...
+    intros x u hu xicc _
+    apply Subset.trans _ (subs x xicc)
+    apply closure_mono
+    apply image_subset
```
Comment (alexjbest) [inline Mathlib/Topology/StoneCech.lean:362]: You could probably combine all these into one line, try using `show_term`  to help do this quickly

File: Mathlib/Topology/StoneCech.lean [hunk 6]
```diff
@@ -331,4 +332,45 @@ instance StoneCech.compactSpace : CompactSpace (StoneCech α) :=
...
+    intros a ha
+    rw [mem_preimage, mem_singleton_iff, ULift.up_inj, Subtype.mk.injEq]
+    apply hu
+    exact ha
```
Comment (alexjbest) [inline Mathlib/Topology/StoneCech.lean:366]: likewise this can probably be
```suggestion
    exact hu ha
```

File: Mathlib/Topology/StoneCech.lean [hunk 7]
```diff
@@ -331,4 +332,45 @@ instance StoneCech.compactSpace : CompactSpace (StoneCech α) :=
...
+  let g : α → Z := fun y' => ⟨f y', hf y'⟩
+  let hg : Continuous g := continuous_uLift_up.comp (cf.subtype_mk fun y' => hf y')
+  let uu := stoneCechExtend hg
+  have subs: ∀ (x : ℝ), (h : (x ∈ Set.Icc (0 : ℝ) 1)) →
+      closure (stoneCechUnit '' (g ⁻¹' {⟨x, h⟩})) ⊆ uu ⁻¹' {⟨x, h⟩} := by
+    intros x hx
+    have closed_image : closure (uu ⁻¹' {⟨x, hx⟩}) = uu ⁻¹' {⟨x, hx⟩} := by
+      rw [closure_eq_iff_isClosed]
+      apply_rules [IsClosed.preimage, continuous_stoneCechExtend,
+      IsCompact.isClosed, isCompact_singleton, continuous_def.2]
```
Comment (alexjbest) [inline Mathlib/Topology/StoneCech.lean:351]:
```suggestion
        IsCompact.isClosed, isCompact_singleton, continuous_def.2]
```

File: Mathlib/Topology/StoneCech.lean (hunk 2 above)
Comment (alexjbest) [inline Mathlib/Topology/StoneCech.lean:343]:
```suggestion
  let hg : Continuous g := continuous_uLift_up.comp (cf.subtype_mk hf)
```
probably you can do this too?
